2173-08-08 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2173-8-8**] 06:30 AM
 MULTI LUMEN - START [**2173-8-8**] 06:31 AM
   single lumen tlc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-8-6**] 07:50 AM
   Piperacillin - [**2173-8-6**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-8-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 129 (129 - 129) bpm
   BP: 151/63(85) {151/63(85) - 151/63(85)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   248 K/uL
   98 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   107 mEq/L
   141 mEq/L
   27.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2173-8-4**]  07:50 PM
                             [**2173-8-4**]  08:30 PM
                             [**2173-8-4**]  09:24 PM
                             [**2173-8-5**]  12:09 AM
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
                             [**2173-8-5**]  02:17 PM
                             [**2173-8-5**]  09:22 PM
                             [**2173-8-6**]  04:04 AM
                             [**2173-8-8**]  06:07 AM
   WBC
   7.4
   8.9
   9.4
   10.9
   Hct
   27
   25
   23.5
   31.5
   30.0
   27.8
   29.3
   27.4
   Plt
   [**Telephone/Fax (3) 8557**]91
   248
   Cr
   0.7
   0.7
   0.8
   TropT
   0.09
   TCO2
   21
   24
   22
   21
   Glucose
   92
   154
   92
   88
   98
   Other labs: PT / PTT / INR:13.7/25.3/1.2, CK / CKMB /
   Troponin-T:47/6/0.09, Differential-Neuts:90.1 %, Lymph:4.4 %, Mono:4.8
   %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   GI BLEED -- Attributed to oozing gastric vessel, immediately adjacent
   to gastric tube.  Unclear whether partially thrombosed vein or artery.
   Transfused 6 units PRBC, and  and General surgery performed oversewing
   of bleeding site.  Continue trend Hct.  Hold ASA, plavix, lovenox
   -->eventually will need to resume.  Monitor VS and stool output.
   PNEUMONIA -- LLL infiltrate on CXR, not progressing.  Plan continue
   antimicrobials for complete 7 day course.
   ? Expressive aphasia, confusion
 non-contrast head CT
   ELEVATED CARDIAC ENZYEMS -- likely reflects demand ischemia (pneumonia,
   and profound anemia in context of GI bleed)
   ANEMIA -- blood loss, attributed to gastric vessel bleed.  Monitor
   serial Hct, maintain >27
   COPD -- No active issues.  Continue usual meds.
   LARYNGEAL CA -- advanced, s/p treatment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-8-8**] 06:30 AM
   Multi Lumen - [**2173-8-8**] 06:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2173-08-08 08:55:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74W H+N SCCa - undergoing XRT. Admitted for pna then developed GI
   bleed. Underwent ex-lap for UGIB 4 days ago. Last night O2 needs
   increased - chest x-ray with larger effusion and infiltrates.
   7.53/33/69 on 1.5 LPM. This AM tachypneic, HR 130's, SPB in 180's and
   POx 85% on 1.5 LPM.
   Also another episode of melena. Given dexamethasone for ? airway edema
   related to airway edema.
   24 Hour Events:
 PICC LINE - START [**2173-8-8**] 06:30 AM
 MULTI LUMEN - START [**2173-8-8**] 06:31 AM
   single lumen tlc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-8-6**] 07:50 AM
   Piperacillin - [**2173-8-6**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: melena
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2173-8-8**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 129 (129 - 129) bpm
   BP: 151/63(85) {151/63(85) - 151/63(85)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, stapled abd wound
   Extremities: Right: Absent, Left: Absent, edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   248 K/uL
   98 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   107 mEq/L
   141 mEq/L
   27.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2173-8-4**]  07:50 PM
                             [**2173-8-4**]  08:30 PM
                             [**2173-8-4**]  09:24 PM
                             [**2173-8-5**]  12:09 AM
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
                             [**2173-8-5**]  02:17 PM
                             [**2173-8-5**]  09:22 PM
                             [**2173-8-6**]  04:04 AM
                             [**2173-8-8**]  06:07 AM
   WBC
   7.4
   8.9
   9.4
   10.9
   Hct
   27
   25
   23.5
   31.5
   30.0
   27.8
   29.3
   27.4
   Plt
   [**Telephone/Fax (3) 8557**]91
   248
   Cr
   0.7
   0.7
   0.8
   TropT
   0.09
   TCO2
   21
   24
   22
   21
   Glucose
   92
   154
   92
   88
   98
   Other labs: PT / PTT / INR:13.7/25.3/1.2, CK / CKMB /
   Troponin-T:47/6/0.09, Differential-Neuts:90.1 %, Lymph:4.4 %, Mono:4.8
   %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.4 mg/dL
   Fluid analysis / Other labs: 7.52/32/81
   Imaging: CXR stable patchy infiltrates, loss of left hemidiaphragm
   ECG: ST, no ischemia
   Assessment and Plan
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP) - still on
   antibiotics
   respiratory distress/hypoxemia - likely related to mucus plugging,
   improved, less likely PE
 HYPERTENSION - increase captopril, metoprolol
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) - recent
   surgery for oversewing of oozing gastric vessel, another episode of
   melena - follow Hct, hold ASA and plavix, access OK
   altered mental status - follow, recent head CT unrevealing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-8-8**] 06:30 AM
   Multi Lumen - [**2173-8-8**] 06:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-08-09 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -fluctuating oxygen requirements requirements overnight
   -neuro consult obtained, suspect R temporal stroke, ordered head/neck
   MRI (but pt refused), recommended keeping blood pressure 160-200s,
   HbA1c--results pending.  Neuro also recs continuing aspirin and
   plavix--these were held given recent bleed hx and guiac + stool, but
   should re-address on [**8-9**] rounds
   -Carotid doppler for eval of carotid patency esp. in context of head
   and neck CA cancer that may compress right carotid artery
   -TTE with bubble study to evaluate for PFO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2173-8-6**] 04:30 PM
   Vancomycin - [**2173-8-8**] 08:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2173-8-8**] 11:57 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-8-9**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 127 (91 - 127) bpm
   BP: 173/90(111) {125/61(81) - 173/100(113)} mmHg
   RR: 35 (16 - 35) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 71 kg
   Height: 64 Inch
             Total In:
                                                                  1,060 mL
                                                                    226 mL
   PO:
             TF:
   IVF:
                                                                    970 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    585 mL
   Urine:
                                                                  1,440 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 88%
   ABG: ///25/
   Physical Examination
   GENERAL: drowsy, follows commands but nonverbal
   HEENT: Normocephalic, atraumatic.  . PERRLA/EOMI. MMM. Thrush; Neck
   Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: diffuse crackles, decreased breath sounds at bases bilaterally
   ABDOMEN: NABS. Soft, NT, ND.  No HSM.  Surgical dressing in place c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: unable to fully assess secondary to mental status
   Labs / Radiology
   351 K/uL
   9.2 g/dL
   87 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   145 mEq/L
   26.3 %
   13.5 K/uL
        [image002.jpg]
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
                             [**2173-8-5**]  02:17 PM
                             [**2173-8-5**]  09:22 PM
                             [**2173-8-6**]  04:04 AM
                             [**2173-8-8**]  06:07 AM
                             [**2173-8-8**]  03:36 PM
                             [**2173-8-8**]  08:02 PM
                             [**2173-8-8**]  11:40 PM
                             [**2173-8-9**]  05:20 AM
   WBC
   8.9
   9.4
   10.9
   13.5
   Hct
   31.5
   30.0
   27.8
   29.3
   27.4
   26.5
   23.4
   24.3
   26.3
   Plt
   195
   190
   191
   248
   351
   Cr
   0.7
   0.7
   0.8
   0.9
   TropT
   0.09
   TCO2
   21
   Glucose
   92
   88
   98
   87
   Other labs: PT / PTT / INR:13.7/25.3/1.2, CK / CKMB /
   Troponin-T:47/6/0.09, Differential-Neuts:90.1 %, Lymph:4.4 %, Mono:4.8
   %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Mrs. [**Known lastname 8531**] is a 73 year old female with laryngeal CA, CAD, and COPD
   admitted for HAP with hospitalization complicated by GIB s/p ex-lap now
   transferred to the MICU for hypoxic respiratory distress.
   # Respiratory distress: Fluctuating oxygen requirements
 ranging from
   4L O2 to high flow 50% FiO2.  Suctioning copius, bloody thick plugs
   from nasopharynx and back of throat.  Possible etiologies of increased
   oxygen requirements most likely include mucus plug with inability to
   clear upper airway secretions, pulmonary edema, worsening HAP,
   aspiration event, intracardiac shunt or pulmonary emboli.
   - Deep suctioning prn
   - Continue vanco and pip/tazo (day 9). If patient spikes or further
   decompensates, add levoflox.
   - Continue nebs
   - Wean supplemental O2 with goal SaO2>90%
   - TTE to evaluate volume status and possible PFO (see below)
   - Sputum and blood cultures.
   - Hold on CTA to rule out PE for now, as this is low likelihood.
   - Hold further corticosteroids for now.
   # Melena: Patient with one black tarry bowel movement yesterday and has
   continued to have guiac positive stools.  She is now POD 4 from
   ex-lap.  Suctioning from g-tube without blood or coffee grounds.
   Serial Hct have been stable
   - Trend hct Q12H today, transfuse for hct<21 or if patient has
   additional melena or hematochezia.
   - Maintain active T+S, cross-matched for 3 units PRBC.
   - Follow-up with GI and surgery in AM.
   # HAP: Currently on day 9 vanco and pip/tazo.
   - Continue current antimicrobials.
   # AMS: Fluctuating altered mental status s/p extubation persists.
   Likely toxic-metabolic secondary to recent surgical procedure,
   intubation, respiratory distress and HAP.  CTH attending read with
   question of parietal lobe hypodensity.  Neurology consult suspects
   right temporal stroke with mild left upper extremity weakness and left
   sided hypoaesthesia.  Neuro also recommended MRI/MRA of head and neck
   which the patient refused.
   - Monitor mental status.
   - talk to neuro regarding starting ASA, hold off on plavix
   - carotid dopplers and TTE with bubble study to evaluate for source of
   possible emboli
   # HTN: BP currently elevated 180/100.  Given concern of possible
   increased pulmonary edema and vascular congestion, will titrate BP
   meds.
   -Continue metoprolol and captopril.
   -neuro recommends keeping BP elevated from 160-200 to prevent further
   ischemia
   # Onc: Per primary oncologist, DR. [**Last Name (STitle) 161**]
   # CAD: Troponins elevated to 0.15 trending down to 0.12 earlier in
   admission with flat MB likely representing demand ischemia in setting
   of pneumonia. Hold ASA and plavix pending stabilization of GIB.
   - Continue statin, ACE-I, and BB.
   # COPD: Continue albuterol/ipratropium nebs.
   # CAD: Patient with troponin leak during initial admission with flak CK
   suggestive of demand ischemia in setting of HAP.
   - Continue statin, BB, and ACE-I. If patient demonstrates hemodynamic
   instability or additional melanotic stools will hold cardiac meds.
   # Hyperlipidemia: Continue statin
   # Anemia: Trend hct and transfuse as necessary as above.
   FEN: NPO, replete as necessary
   PPx: SCDs and PPI
   Access: Right Hickman (single lumen), midline both placed at OSH.
   CODE: FULL (confirmed)
   Contact: [**Name (NI) 209**] [**Name (NI) 8531**] (Son)  [**Telephone/Fax (1) 8537**]
   Dispo: ICU level of care.
   ICU Care
   Nutrition: pureed solids and thin liquids as per speech and swallow,
   consult nutrition regarding g-tube for supplemental care
   Glycemic Control:
   Lines:
   Midline - [**2173-8-8**] 08:00 AM
   Tunneled (Hickman) Line - [**2173-8-8**] 08:00 AM
   Prophylaxis:
   DVT: heparin, STD
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable
   ------ Protected Section ------
   Mrs. [**Known lastname 8531**] was called out at 0500 before I was able to preround on
   her.  I was in the [**Hospital Unit Name 1**] overnight and she had no acute events.  She did
   receive one nebulizer treatment overnight.  She was transferred to 12
   Reismann in stable condition.
   ------ Protected Section Addendum Entered By:[**Name (NI) 220**] [**Last Name (NamePattern1) 569**], MD
   on:[**2173-8-10**] 06:54 ------